US04839369
5-[3-[3-(1-Hydroxyhexyl)phenoxymethyl]phenyl]-2-carbethoxymethyl-2H-tetrazole
To a solution of 0.3 g of sodium in 60 ml of ethanol was added 4.3 g of 5[3-[3-(1-hydroxyhexyl)phenoxymethyl]phenyl]-2H-tetrazole and 2.0 g of ethyl bromoacetate. The mixture was refluxed for 18 hours. The solvent was evaporated and the residue was partitioned between ether and water. The ether layer was dried and evaporated to give 4.5 g of a viscous oil. This was passed through a short silica gel column and eluted with chloroform:methanol (4:1). The product (2.3 g) was obtained as a light amber oil.

reactant | sodium | 0.3 g | [Na] | Na
reactant | 5[3-[3-(1-hydroxyhexyl)phenoxymethyl]phenyl]-2H-tetrazole | 4.3 g | OC(CCCCC)C=1C=C(OCC=2C=C(C=CC2)C=2N=NNN2)C=CC1 | C20H24N4O2
reactant | ethyl bromoacetate | 2.0 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-[3-[3-(1-Hydroxyhexyl)phenoxymethyl]phenyl]-2-carbethoxymethyl-2H-tetrazole | 4.5 g | OC(CCCCC)C=1C=C(OCC=2C=C(C=CC2)C=2N=NN(N2)CC(=O)OCC)C=CC1 | C24H30N4O4
